US06171578B2
5-Hydroxyanthranilic acid (100 g, 0.65 mol) was transferred into a 5 liter 3-necked round bottom flask equipped with a mechanical stirrer. A solution of saturated sodium carbonate (1.5 liters) was added to the reaction flask with stirring. After carbon dioxide evolution had subsided, di-t-butyldicarbonate (156.8 g, 0.72 mol) in 1.5 liters of tetrahydrofuran (THF) was added to the reaction vessel which was stirred at a rate which insured complete mixing of the resulting biphasic mixture. The reaction mixture was stirred at room temperature for 24 hours at which time 1.0 liters of ethyl ether was added and the mixture transferred to a separatory funnel. The aqueous layer was extracted with an additional 1.0 liters of ethyl ether and brought to pH=3.0 with 2 M H3PO4. Product was extracted from the aqueous solution with ethyl acetate (3×1.0 liters). The combined organics were washed with a saturated NaCl solution, dried over Na2SO4, filtered and concentrated in vacuo to yield N-Boc-5-hydroxyanthranilic acid (153 g, 92.5% yield).

reactant | 5-Hydroxyanthranilic acid | 0.65 mol, 100 g | OC1=CC=C(C(C(=O)O)=C1)N | C7H7NO3
reactant | sodium carbonate | 1.5 liters | C([O-])([O-])=O.[Na+].[Na+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | di-t-butyldicarbonate | 0.72 mol, 156.8 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 1.5 liters | O1CCCC1 | C4H8O
solvent | ethyl ether | 1.0 liters | C(C)OCC | C4H10O
product | N-Boc-5-hydroxyanthranilic acid | 153 g, 92.5% yield | C(=O)(OC(C)(C)C)NC=1C(C(=O)O)=CC(=CC1)O | C12H15NO5
